US05846988
A solution prepared by the sequential addition of oxalyl chloride (2.9 g, 23 mmol) and dimethyl sulfoxide (3.7 g, 47 mmol) to methylene chloride which had been cooled to -78° C. was allowed to stir for 12 minutes. A solution of 6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran-2-yl methanol (4.0 g, 18 mmol) in 50 mL methylene chloride was then added dropwise to the reaction mixture. After stirring for 40 min., triethylamine (7.3 g, 72.6 mmol) was added dropwise over 5 min. The reaction mixture was stirred at -78° C. for 15 min and then at ambient temperature for 30 min. The reaction mixture was diluted with methylene chloride (100 mL). The resulting solution was washed (water 100 mL, brine 100 mL, water 100 mL), dried (magnesium sulfate), and concentrated under reduced pressure to give a yellow oil. The oil was chromatographed (SiO2, 200 g, ethyl acetate-hexane, 1:9) to give 6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran-2-yl methanal as a white solid (3.0 g, 70% yield).

reactant | oxalyl chloride | 23 mmol, 2.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 47 mmol, 3.7 g | CS(=O)C | C2H6OS
reactant | 6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran-2-yl methanol | 18 mmol, 4.0 g | OC1=C(C2=C(OC(CC2)(C)CO)C(=C1C)C)C | C14H20O3
reactant | triethylamine | 72.6 mmol, 7.3 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran-2-yl methanal | 3.0 g, 70% yield | OC1=C(C2=C(OC(CC2)(C)C=O)C(=C1C)C)C | C14H18O3
